data/rdb19/train.csv
rxn,smiles,ea
5466,[C:19]([C:20]([C:21]([H:22])([H:23])[H:30])[N:24]([C:25](=[O:26])[H:32])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[N:24]([C:25](=[O:26])[H:32])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][H:30],49.04518570954679
3768,[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]1([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:18]([C:17]([H:23])([H:24])[H:25])([O:20][C:21](=[C:22]([H:27])[H:28])[H:26])[O:19]1,56.5902042100206
829,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:23]([C:21]([O:20][C:19]([H:26])([H:27])[H:28])([C:22]([H:30])([H:31])[H:32])[H:29])([H:24])[H:25])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],30.23483110719826
4482,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14]([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]1([O:6][H:12])[O:5][C:15]1([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:7])([H:8])[H:9],87.5172689757892
2347,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:11]([H:20])([H:21])[H:22].[C:1]([C:2]([H:3])([H:4])[C:10]([C:9]([C:8]([H:14])([H:15])[H:16])([H:17])[H:18])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:5])([H:6])[H:7],72.57599045097595
3470,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28].[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:17]([H:23])([H:24])[H:25],84.68013039563084
4317,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17]([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([O:2][C:3]1([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[O:4][C:18]1([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:8])([H:9])[H:10],77.02294670144329
3712,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:20]([H:33])([H:34])[H:35],75.52527852030471
757,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:23]([C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([C:22]([H:32])([H:33])[H:34])[H:31])([H:24])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[N:7]([H:17])[H:18],64.81739079055842
943,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23],20.40274607844185
3280,[C:13]([O:14][O:15])([H:16])([H:17])[H:18].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[O:15][O:14][C:13]([H:16])([H:17])[H:18])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],21.33417974607437
